US05292452
A suspension of 12.05 g of [2-(3,4-difluorophenyl)-5-pyridyl]methyltriphenylphosphonium chloride in 70 ml of diethyl ether is treated with 2.67 g of potassium tert.-butylate in a nitrogen atmosphere. The dark yellow suspension is stirred at room temperature for a further 30 minutes. A solution of 2.74 g of -trans-4-formylcyclohexanecarbonitrile in 30 ml of diethyl ether is then added dropwise at 0° C. The reaction mixture is stirred at 0° C. for a further 1 hour, then stirred with 40 ml of 1N sodium hydrogen carbonate solution and diluted with diethyl ether. The organic phase is separated, washed neutral with water, dried over sodium sulphate and concentrated. The residue is chromatographed on silica gel with hexane/ethyl acetate 3:1 (v/v). There is obtained trans-4-[2-[2-(3,4-difluorophenyl)-5-pyridyl]vinyl]cyclohexanecarbonitrile.

reactant | [2-(3,4-difluorophenyl)-5-pyridyl]methyltriphenylphosphonium chloride | 12.05 g | [Cl-].FC=1C=C(C=CC1F)C1=NC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | trans-4-formylcyclohexanecarbonitrile | C(=O)[C@@H]1CC[C@H](CC1)C#N | C8H11NO
reactant | sodium hydrogen carbonate | 1N, 40 ml | C(O)([O-])=O.[Na+]
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | trans-4-[2-[2-(3,4-difluorophenyl)-5-pyridyl]vinyl]cyclohexanecarbonitrile | FC=1C=C(C=CC1F)C1=NC=C(C=C1)C=C[C@@H]1CC[C@H](CC1)C#N | C20H18F2N2
